US05108486
Following procedures similar to those employed in Step B of Example 3, the reaction of 3.1 g (0.011 mole) of 4-(4-diethylamino-2,5-difluorophenyl)-2-methyl-3-thiosemicarbazide with 2.3 g (0.011 mole) of trifluoroacetic anhydride in 50 ml of toluene yielded 2.3 g of 4-(4-diethylamino-2,5-difluorophenyl)-3-trifluoromethyl-4,5-dihydro-1-methyl-1,2,4-triazol-5(1H)-thione, Compound 138 of Table 1. The nmr spectrum was consistent with the proposed structure.

reactant | 4-(4-diethylamino-2,5-difluorophenyl)-2-methyl-3-thiosemicarbazide | 0.011 mole, 3.1 g | C(C)N(C1=CC(=C(C=C1F)NC(N(N)C)=S)F)CC | C12H18F2N4S
reactant | trifluoroacetic anhydride | 0.011 mole, 2.3 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4-diethylamino-2,5-difluorophenyl)-3-trifluoromethyl-4,5-dihydro-1-methyl-1,2,4-triazol-5(1H)-thione | 2.3 g | C(C)N(C1=CC(=C(C=C1F)N1C(=NN(C1=S)C)C(F)(F)F)F)CC | C14H15F5N4S
